US08604069B2
(A-75-3) 4-Ethyl-1-piperidin-1-ylhexan-1-one
4-Ethylhexanoic acid (47.0 g) was dissolved in DMF (190 mL). To the solution were added piperidine (34.0 mL), HOBt.H2O (52.7 g) and WSC.HCl (66.1 g). The mixture was stirred at RT overnight. To the reaction mixture were added ethyl acetate (300 mL) and 1 N hydrochloric acid (100 mL) at ice temperature. The aqueous layer was removed and the organic layer was washed with saturated aqueous sodium bicarbonate (150 mL×2) and brine (100 mL×2), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (59.8 g) as a crude product.

reactant | 4-Ethylhexanoic acid | 47.0 g | C(C)C(CCC(=O)O)CC | C8H16O2
reactant | piperidine | 34.0 mL | N1CCCCC1 | C5H11N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 66.1 g | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | DMF | 190 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | H2O | 52.7 g | O | H2O
product | 4-Ethyl-1-piperidin-1-ylhexan-1-one | 59.8 g | C(C)C(CCC(=O)N1CCCCC1)CC | C13H25NO
